US08058300B2
Step 1: 5-(4-Bromo-phenyl)-isoxazole-4-carboxylic acid ethyl ester:
A solution of ethyl (4-bromobenzoyl)acetate (1.19 g, 4.39 mmol) in N,N-dimethylformamide dimethyl acetal (10 mL) was stirred at 100° C. for 1 hour. The mixture was concentrated, and the residue was dissolved in EtOH (10 mL). Hydroxylamine hydrochloride (0.454 g, 6.57 mmol) was added, and the reaction was stirred at 100° C. for 1 hour. After cooling to room temperature, the mixture was partitioned between EtOAc and H2O, and the organic layer was separated, dried over MgSO4, filtered, and concentrated. The crude material was purified by silica gel chromatography to give the title compound.

reactant | ethyl (4-bromobenzoyl)acetate | 4.39 mmol, 1.19 g | BrC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11BrO3
reactant | Hydroxylamine hydrochloride | 6.57 mmol, 0.454 g | Cl.NO
reactant | N,N-dimethylformamide dimethyl acetal | 10 mL | COC(N(C)C)OC | C5H13NO2
product | 5-(4-Bromo-phenyl)-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NOC1C1=CC=C(C=C1)Br | C12H10BrNO3
